US07138425B2
a) 2-(3-Aminophenyl)-6-methylbenzoxazole
Prepared by the method of Example 1a), from 2-amino-5-methylphenol (448 mg, 3.6 mmol) and 3-aminobenzoic acid (500 mg, 3.6 mmol) the subtitle compound was obtained, 97 mg (12%). 1H NMR (CDCl3) δ 7.55(d, J=8.2 Hz, 2H), 7.49(t, J=1.9 Hz, 1H), 7.30(s, 1H), 7.22(t, J=7.5 Hz, 1H), 7.08(dd, J=1.1, 8.2 Hz, 1H), 6.76(dd, J=2.3, 7.9 Hz, 1H), 2.43(s, 3H). MS 225 m/z (M+H)+.

reactant | 2-amino-5-methylphenol | 3.6 mmol, 448 mg | NC1=C(C=C(C=C1)C)O | C7H9NO
reactant | 3-aminobenzoic acid | 3.6 mmol, 500 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 2-(3-Aminophenyl)-6-methylbenzoxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)C | C14H12N2O
